US05326856
7.3. PREPARATION OF 6-AMINOCAPROIC ACID N'-FMOC HYDRAZIDE
Using anhydrous conditions and under a nitrogen gas blanket, a 200 ml round bottom flask was charged with 4.90 g (10.48 mmol) of N-BOC-6-aminocaproate (N-(FMOC) hydrazide), and 10 ml of methylene chloride. The reaction mixture was then stirred at room temperature as 16 ml of trifluoroacetic acid (Schweizerhall) dissolved in 16 ml of methylene chloride was slowly added. The resultant homogeneous solution was allowed to stir for an additional 2 h and then 15 ml of toluene was added. The solvents and any remaining trifluoroacetic acid were then distilled off under reduced pressure. The distillation residue was twice more azeotroped with 15 ml portions of toluene to leave 8.49 g of orange oil. 1H NMR showed this crude material to contain the peaks associated with aminocaproic acid and a FMOC substituent. However, no tert-butyl peak was observed between 1-2 ppm showing removal of the BOC protecting group. This product was used without further purification.

reactant | aminocaproic acid | C(CCC(=O)O)CCN | C6H13NO2
reactant | 9-fluorenylmethyl carbazate | C(NN)(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H14N2O2
product | 6-AMINOCAPROIC ACID N'-FMOC HYDRAZIDE | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NNC(CCCCCN)=O | C21H25N3O3
